### PR TITLE
complete the lemmas about comparison and halving

### PR DESCRIPTION
**Pull request by thery**
##### Motivation for this change

There were missing lemmas about comparrison with _../2, 
and uphalf _

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -1418,6 +1421,20 @@ case: odd; last by rewrite leq_double.
...
+Lemma ltn_half_double m n : (m./2 < n) = (m < n.*2).
+Proof. by rewrite ltnNge geq_half_double -ltnNge. Qed.
+
+Lemma leq_half_double m n : (m./2 <= n) = (m <= n.*2.+1).
+Proof.
+apply/idP/idP => [m2Ln|mLnn]; last first.
+  by rewrite -[n](half_bit_double _ true) half_leq.
+rewrite -[m](odd_double_half) -add1n.
+by apply: leq_add; [case: odd|rewrite leq_double].
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/ssrnat.v:1433]:
```suggestion
Lemma leq_half_double m n : (m./2 <= n) = (m <= n.*2.+1).
Proof. by case: m => [|[|m]] //; rewrite ltnS ltn_half_double. Qed.
```

**Review by proux01 — APPROVED** [review]
LGTM, will merge by the end of the week if no further comment.
